US06903215B2
A mixture of 500 mg (1.71 mmol) of 4-bromo-2-hydroxy-2-trifluoromethylpent-4-enoic acid ethyl ester, 509 mg (3 mmol) of 3-fluoro-5-methoxyphenylboronic acid and 25 mg (0.022 mmol) of tetrakis(triphenylphosphine)palladium(0) in 4 mL of toluene, 2 mL of ethanol, and 1 mL of 2 M aqueous sodium carbonate was warmed at reflux. After 24 hours, the mixture was cooled and diluted with saturated aqueous ammonium chloride and extracted with three 10 mL portions of EtOAc. The combined organic layers were washed with three 5 mL portions of brine, dried over magnesium sulfate, filtered, and concentrated. The crude solidified upon standing and was adsorbed onto silica gel and chromatographed on silica gel using EtOAc-hexanes (0:100, then 0.5:99.5, then 1:99, then 2:98) to afford partially purified product. Trituration with ether-hexanes removed an insoluble by product. The filtrate was chromatographed on silica gel using dichloromethane-hexanes (5:95, then 1:9, then 15:85, then 2:8, then 3:7, then 4:6) to afford 280 mg (48%) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-2-trifluoromethylpent-4-enoic acid ethyl ester as an oil which solidified upon standing.

reactant | 4-bromo-2-hydroxy-2-trifluoromethylpent-4-enoic acid ethyl ester | 1.71 mmol, 500 mg | C(C)OC(C(CC(=C)Br)(C(F)(F)F)O)=O | C8H10BrF3O3
reactant | 3-fluoro-5-methoxyphenylboronic acid | 3 mmol, 509 mg | FC=1C=C(C=C(C1)OC)B(O)O | C7H8BFO3
reactant | sodium carbonate | 2 M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-2-trifluoromethylpent-4-enoic acid ethyl ester | 280 mg, 48% | C(C)OC(C(CC(=C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O)=O | C15H16F4O4
